US07566699B2
To a mixture of 3-[2-(4-acetylaminophenyl)ethyl]-4-hydroxybenzofuran (30 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (64 mg) in dichloromethane (3 mL) was added boron trifluoride-diethyl ether complex (0.013 mL), and the mixture was stirred at room temperature for three days. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/3-1/2) to give 3-[2-(4-acetylaminophenyl)ethyl]-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)benzofuran (38 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=6/1) to give the title compound (12 mg).

reactant | 3-[2-(4-acetylaminophenyl)ethyl]-4-hydroxybenzofuran | 30 mg | C(C)(=O)NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C18H17NO3
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 64 mg | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-[2-(4-acetylaminophenyl)ethyl]-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)benzofuran | 38 mg | C(C)(=O)NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O | C32H35NO12
